US07495007B2
Preparation of intermediate 4-[2-(1,1-Dioxo-isothiazolidin-2-yl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester
To a stirred solution of 1-Boc-4-(2-aminoethyl)-piperazine (1.26 g, 6.8 mmol) and triethylamine (1 mL) in THF (10 ML), 3-chloro-propylsulfonyl chloride (Aldrich, 0.68 mL, 6.94 mmol) was added slowly at room temperature. The mixture was stirred for 30 minutes at and the reaction was quenched with water. The new mixture was extracted with ethyl acetate and the extracts were combined and dried (Na2SO4). The solution was concentrated and the residue was dissolved in THF (20 mL) and Cs2CO3 (500 mg), NaI (80 mg) were added and the mixture was stirred at reflux overnight. The mixture was cooled to room temperature and poured into water. The new mixture was extracted with ethyl acetate (3×15 mL) and the extracts were combined and dried (Na2SO4). Removal of the solvent on a rotary evaporator gave a solid. 2.01 g.

reactant | 1-Boc-4-(2-aminoethyl)-piperazine | 6.8 mmol, 1.26 g | C(=O)(OC(C)(C)C)N1CCN(CC1)CCN | C11H23N3O2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-propylsulfonyl chloride | 6.94 mmol, 0.68 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | THF | C1CCOC1 | C4H8O
product | 4-[2-(1,1-Dioxo-isothiazolidin-2-yl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN1S(CCC1)(=O)=O | C14H27N3O4S
